US06967201B1
1-(triphenylmethyl)amino-2-(5-fluorobenzofur-7-yl)amino-2-methylpropane
A mixture of 5.0 gm (23.3 mmol) 5-fluoro-7-bromobenzofuran, 10.3 gm (32.6 mmol) 1-(triphenylmethyl)amino-2-amino-2-methylpropane, 0.87 gm (1.4 mMol) racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl, 0.64 gm (0.7 mMol) tris(dibenzylideneacetone)dipalladium, and 3.13 gm (32.5 mMol) sodium tert-butoxide in 60 ml anhydrous toluene was degassed and purged with nitrogen. The reaction mixture was heated at reflux for 2 hours and was then allowed to cool to room temperature. The reaction mixture was diluted with 50 mL diethyl ether, filtered through celite, and the filtrate concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 15:1 hexane:ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 7.6 gm (70%) of the desired product.

reactant | 5-fluoro-7-bromobenzofuran | 23.3 mmol, 5.0 gm | FC=1C=C(C2=C(C=CO2)C1)Br | C8H4BrFO
reactant | 1-(triphenylmethyl)amino-2-amino-2-methylpropane | 32.6 mmol, 10.3 gm | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NCC(C)(C)N | C23H26N2
reactant | sodium tert-butoxide | 32.5 mMol, 3.13 gm | CC(C)([O-])C.[Na+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.7 mMol, 0.64 gm | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.4 mMol, 0.87 gm | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 1-(triphenylmethyl)amino-2-(5-fluorobenzofur-7-yl)amino-2-methylpropane | 7.6 gm, 70% | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NCC(C)(C)NC1=CC(=CC=2C=COC21)F | C31H29FN2O
